US07851072B2
Step 1: 2-(3′-fluorobiphenyl-3-yl)pyridine
To a 500 mL. three-necked round bottom flask equipped with a stir bar, temperature probe, and a nitrogen inlet were added 2-(3-bromophenyl)-5-methylpyridine (14.7 g, 60 mmol), 3-fluorophenylboronic acid (10.0 g, 72 mmol), palladium (II) acetate (0.335 g, 1.5 mmol), triphenylphosphine (1.56 g, 6.0 mmol), sodium carbonate (17.0 g, 160 mmol), containing dimethoxyethane (120 mL.) and water (80 mL.). The solution was heated at reflux for twenty hours, cooled, and diluted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate, and evaporated to dryness to give a brown liquid, which was purified by flash silica gel chromatography using a 5/95 to 10/90 ethyl acetate/hexane gradient, yielding a viscous, colorless liquid (12.5 g 80%).

reactant | 2-(3-bromophenyl)-5-methylpyridine | 60 mmol, 14.7 g | BrC=1C=C(C=CC1)C1=NC=C(C=C1)C | C12H10BrN
reactant | 3-fluorophenylboronic acid | 72 mmol, 10.0 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | triphenylphosphine | 6.0 mmol, 1.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 160 mmol, 17.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) acetate | 1.5 mmol, 0.335 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 80 mL | O | H2O
solvent | dimethoxyethane | 120 mL | C(OC)COC | C4H10O2
product | 2-(3′-fluorobiphenyl-3-yl)pyridine | FC=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC=CC=C1 | C17H12FN
